US04503073
5-Fluoro-7-(4-fluorobenzoyl)-3-methylthioindolin-2-one
A solution of 46.6 g (0.2 mole) of 2-amino-4',5-difluorobenzophenone in 1300 ml of methylene chloride was cooled to -65° C. and 26.8 g (0.2 mole) of ethyl methylthioacetate was added. The cold mixture was stirred vigorously while 23.0 g (0.2 mole) of 95% tertiary butoxy chloride was added dropwise. The mixture was stirred at -70° C. for one hour, then 23 g (0.22 mole) of triethylamine was added. The mixture was allowed to warm to room temperature and 10 ml of concentrated hydrochloric acid was added. The mixture was heated at reflux with vigorous stirring for 2 hrs. The organic phase was separated and the residue was crystallized from ethyl acetate to give 28.9 g (45%) of the titled compound as off-white crystals, m.p. 171.0°-172.5° C.

reactant | 2-amino-4',5-difluorobenzophenone | 0.2 mole, 46.6 g | NC1=C(C(=O)C2=CC=C(C=C2)F)C=C(C=C1)F | C13H9F2NO
reactant | ethyl methylthioacetate | 0.2 mole, 26.8 g | CCC(=S)OCC | C5H10OS
reactant | tertiary butoxy chloride | 0.2 mole, 23.0 g | C(C)(C)(C)OCl | C4H9ClO
reactant | triethylamine | 0.22 mole, 23 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | methylene chloride | 1300 ml | C(Cl)Cl | CH2Cl2
product | 5-Fluoro-7-(4-fluorobenzoyl)-3-methylthioindolin-2-one | 28.9 g, 45% | FC=1C=C2C(C(NC2=C(C1)C(C1=CC=C(C=C1)F)=O)=O)SC | C16H11F2NO2S
